US08383827B2
To a solution of 3-(5-bromopyridin-3-yl)acrylate (180 mg, 0.744 mmol) and nickel chloride hexahydrate (17.6 mg, 0.074 mmol) in MeOH (3 ml) was added sodium borohydride (56.3 mg, 1.487 mmol) at 0° C. This mixture was stirred for 30 min at room temperature. Brine and ethyl acetate were added and the organic layer was separated and washed with brine twice. The combined organic layer was dried over Na2SO4, filtered and concentrated to give 155 mg of crude 3-(5-Bromo-pyridin-3-yl)-propionic acid methyl ester. ESI-MS m/z: 246[M+1]+.

reactant | 3-(5-bromopyridin-3-yl)acrylate | 0.744 mmol, 180 mg | BrC=1C=C(C=NC1)C=CC(=O)[O-]
reactant | sodium borohydride | 1.487 mmol, 56.3 mg | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 3 ml | CO | CH4O
solvent | Brine | [Cl-].[Na+].O
catalyst | nickel chloride hexahydrate | 0.074 mmol, 17.6 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | 3-(5-Bromo-pyridin-3-yl)-propionic acid methyl ester | 155 mg | COC(CCC=1C=NC=C(C1)Br)=O | C9H10BrNO2
